US07638515B2
5-{[6-Fluoro-2-hydroxy-4,4-dimethyl-5-methoxy-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-phthalazin-1(2H)-one
Analogously to Example 10, the corresponding imine is produced starting from 200 mg of 4-(3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal and 105 mg of 5-amino-phthalazin-1-one. As in Example 3, 50 mg of imine is reacted by reaction with 0.22 ml of titanium tetrachloride, and 36 mg of the title compound is obtained.

reactant | 4-(3-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-(trifluoromethyl)-pentanal | 200 mg | FC=1C(=C(C=CC1)C(CC(C=O)(C(F)(F)F)O)(C)C)OC | C14H16F4O3
reactant | 5-amino-phthalazin-1-one | 105 mg | NC1=C2C=NNC(C2=CC=C1)=O | C8H7N3O
catalyst | titanium tetrachloride | 0.22 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 5-{[6-Fluoro-2-hydroxy-4,4-dimethyl-5-methoxy-2-(trifluoromethyl)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}-phthalazin-1(2H)-one | 36 mg | FC=1C(=C2C(CC(C(C2=CC1)NC1=C2C=NNC(C2=CC=C1)=O)(C(F)(F)F)O)(C)C)OC | C22H21F4N3O3
